US05358951
2-Butyl-6-(1-hydroxy-1-phenylethyl)-4(1H)-quinazolinone
To a solution of 2.08 g of 6-acetyl-2-butyl-4(1H)-quinazolinone in 80 ml of tetrahydrofuran is added dropwise at room temperature 14.2 ml of 3.0M phenylmagnesium bromide. The reaction mixture is stirred at room temperature overnight then diluted with aqueous ammonium chloride and extracted with chloroform. The organic layer is dried and evaporated in vacuo to a residue which is purified by column chromatography on silica gel by elution with 1:1 ethyl acetate-hexanes to give 0.535 g of the desired product as a solid. CI mass spec (MH+) 323.

reactant | 6-acetyl-2-butyl-4(1H)-quinazolinone | 2.08 g | C(C)(=O)C=1C=C2C(N=C(NC2=CC1)CCCC)=O | C14H16N2O2
reactant | phenylmagnesium bromide | 3.0M, 14.2 ml | C1(=CC=CC=C1)[Mg]Br
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | ammonium chloride | [Cl-].[NH4+]
product | 2-Butyl-6-(1-hydroxy-1-phenylethyl)-4(1H)-quinazolinone | 0.535 g | C(CCC)C=1NC2=CC=C(C=C2C(N1)=O)C(C)(C1=CC=CC=C1)O | C20H22N2O2
